US04873255
Methyl 2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman-6-carboxylate
A mixture of 22 g of 2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman-6-carboxylic acid (prepared as described in Preparation 42), 100 ml of methanol and 200 ml of a 4N solution of hydrogen chloride in dioxane was allowed to stand overnight at room temperature. At the end of this time, the solvent was stripped from the reaction mixture by evaporation under reduced pressure. The residue was then dissolved in benzene, and the resulting solution was washed with water and dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel, eluted with a 20:1 by volume mixture of benzene and ethyl acetate, to afford 16.1 g of the title compound, melting at 144°-145° C.

reactant | 2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman-6-carboxylic acid | 22 g | CC1(OC2=CC=C(C=C2C(C1)=O)C(=O)O)COC1=CC=C(C=C1)[N+](=O)[O-] | C18H15NO7
reactant | methanol | 100 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman-6-carboxylate | 16.1 g | CC1(OC2=CC=C(C=C2C(C1)=O)C(=O)OC)COC1=CC=C(C=C1)[N+](=O)[O-] | C19H17NO7
